US09062092B2
Compound 94b. 3-[(R)-1-(7-Bromo-quinolin-2-yl)-ethylcarbamoyl]-3-methyl-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of 3-methyl-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-methyl ester (1.62 g, 4.52 mmol) in tetrahydrofuran/water/methanol (50 mL, 5:1:1) at 0° C. was added lithium hydroxide hydrate (2.2 g, 52.3 mmol). The reaction mixture was stirred at 0° C. for 1 h and then at room temperature for 1 h. The reaction mixture was heated at 40° C. for 19 h then cooled to room temperature and the solvent was evaporated. The residue was partitioned between ethyl acetate and water and the mixture was acidified to pH 5 with hydrochloric acid (1 M). The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and the solvent was evaporated. The residue was dissolved in toluene and the solvent was evaporated to give 3-methyl-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester as a yellow oil (1.47 g, 95%). LCMS (m/z) 343.1 [M−H], Tr=2.36 min. To a solution of 3-methyl-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester (1.37 g, 4.0 mmol) in dichloromethane (30 mL) at 0° C. was added (R)-1-(7-bromo-quinolin-2-yl)-ethylamine hydrochloride (1.30 g, 4.5 mmol) and N,N-diisopropylethylamine (2.8 mL, 16.0 mmol) followed by (dimethylamino)-N,N-dimethyl(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methaniminium hexafluorophosphate (1.81 g, 4.76 mmol). The reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 2 h. The reaction mixture was diluted with dichloromethane and washed with water. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were passed through a hydrophobic frit and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with a gradient of iso-hexanes/ethyl acetate 20:1 to 0:1 to afford the title compound (929 mg, 40%) as a yellow foam and as a mixture of diastereoisomers. LCMS (m/z) 577.3, 579.2 [M+H], Tr=3.72 min.

reactant | 3-methyl-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester | 4.0 mmol, 1.37 g | C(C)(C)(C)OC(=O)N1N(C(CCC1)(C(=O)O)C)C(=O)OC(C)(C)C | C16H28N2O6
reactant | (R)-1-(7-bromo-quinolin-2-yl)-ethylamine hydrochloride | 4.5 mmol, 1.30 g | Cl.BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)N
reactant | N,N-diisopropylethylamine | 16.0 mmol, 2.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (dimethylamino)-N,N-dimethyl(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methaniminium hexafluorophosphate | 4.76 mmol, 1.81 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+](C)C)ON1N=NC=2C1=NC=CC2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-[(R)-1-(7-Bromo-quinolin-2-yl)-ethylcarbamoyl]-3-methyl-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester | 929 mg, 40% | C(C)(C)(C)OC(=O)N1N(C(CCC1)(C)C(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O)C(=O)OC(C)(C)C | C27H37BrN4O5
